US07429596B2
tert-Butyl 3-(5-(3-hydroxyphenyl)-4-(methylamino)-4aH-pyrrolo[2,3-d]pyrimidin-7(7aH)-yl)propanoate (RB10):
t-butyl 3-(5-iodo-4-(methylamino)-4aH-pyrrolo[2,3-d]pyrimidin-7(7aH)-yl)propanoate (123 mmol) from above was placed in a 25 ml round bottom flask, whereupon 3.1 ml dimethoxy ethyleneglycol was added. 3-Hydroxyphenylboronic acid (492 mmol pre-dissolved in 0.66 ml ethanol) was added at once, and was followed by 0.5 ml saturated aqueous sodium carbonate. Pd0(PPh3)4 (14 mg, 12 umol) was added to the reaction, the vessel was purged with argon, and set to stir at 80 C overnight. The reaction was subsequently cooled, and filtered through a bed of celite. The filtrate was evaporated in vacuo, and the residual material was adhered to silica gel using ethyl acetate as solvent. Silica gel chromatography (ethyl acetate:hexanes) and evaporation in vacuo of the requisite fractions yielded the desired product. MS m/z=369.22.

reactant | t-butyl 3-(5-iodo-4-(methylamino)-4aH-pyrrolo[2,3-d]pyrimidin-7(7aH)-yl)propanoate | 123 mmol | IC1=CN(C2N=CN=C(C21)NC)CCC(=O)OC(C)(C)C | C14H21IN4O2
reactant | dimethoxy ethyleneglycol | 3.1 ml | COC(C(OC)O)O | C4H10O4
reactant | 3-Hydroxyphenylboronic acid | 492 mmol, 0.66 ml | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | sodium carbonate | 0.5 ml | C([O-])([O-])=O.[Na+].[Na+]
product | tert-Butyl 3-(5-(3-hydroxyphenyl)-4-(methylamino)-4aH-pyrrolo[2,3-d]pyrimidin-7(7aH)-yl)propanoate | OC=1C=C(C=CC1)C1=CN(C2N=CN=C(C21)NC)CCC(=O)OC(C)(C)C | C20H26N4O3
